Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
cardiac cath ___
Coronary Anatomy
Dominance: Right
* Left Main Coronary Artery
The LMCA is normal
* Left Anterior Descending
The LAD had a focal ulcerated 90% mid lesion
* Circumflex
The Circumflex is normal
Intra-procedural Complications: None
Impressions:
Successful DES of mid LAD
Elevated LVEDP
 
History of Present Illness:
___ YO ___ M with HTN, tobacco use who presented to ___ with
acute onset of left sided chest pain at rest (while driving).
Described as "funky" or "buzzing" sensation localized to 1 cm x 
1
cm area on upper left chest that began as ___ chest pain but
waxed and waned up to ___. Patient presented to ED after 3
hours when pain had not resolved. No associated diaphoresis,
nausea, SOB. 

On arrival to OSH, was given SL nitro, which improved the pain 
to
___. Also given IV morphine with only mild relief. Initial
trop-I 0.08. Given ASA 325 mg. Serial EKGs showed NSR/sinus
tachycardia with no clear ischemic ST/T changes. EKG @ 1622 with
sinus tachycardia, HR 110, normal axis, LVH, no ST/T changes.
Repeat EKG @ 19:48 showed NSR, HR 96, normal axis, LVH, RSR' in
V2, but no STD/STE. Second trop-I up to 0.47. CT chest negative
for PE or aortic pathology (images uploaded to life image).
Started on heparin drip and transferred to ___ for further
management. 

On arrival to ___, patient continued to endorse very mild
___ left side chest discomfort, worse with exertion including
moving around in bed. He denies previous chest pain at rest but
has had pain with exertion and SOB. In fact, he states he does
not walk long distances or up stairs due to symptoms. This has
been chronic. Patient has recently established care with a
cardiologist at ___, says that he has had several month history
of tachycardia of unclear etiology and was scheduled for
outpatient stress test at ___ ___.

In the ED, initial VS were: 99.3 102 143/87 18 98% RA 
Labs showed: WBC 16.3, Hb 14.5, phos 4.8, Cr 0.9, HCO3 20, trop
0.10, CK-MB 7Imaging showed: CTA abdomen and CXR from OSH
uploaded to life image. 
Received: heparin gtt, atorvastatin 80mg, metoprolol tartrate
6.25 x1. 
Transfer VS were: 96 123/78 16 98% RA 

On arrival to the floor, patient reports the above history. No
new complaints. 
 
Past Medical History:
HTN
GERD
Tachycardia
Chronic cough since ___
 
Social History:
___
Family History:
FAMILY HISTORY: No known hx CAD, MI or sudden cardiac death.  
 
Physical Exam:
ADMISSION EXAM
================
VS:  98.1  145/87  99  18  98%Ra 
GENERAL: NAD
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
NECK: supple, no LAD, JVP 10 cm 
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles. Chest pain not reproducible to
palpation. 
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes 

DISCHARGE EXAM
================

VS: 98.7 149 / ___
 GENERAL: NAD  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
 NECK: supple, no LAD, no JVD
 HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles.
 ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
 EXTREMITIES: no cyanosis, clubbing, or edema  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: A&Ox3, moving all 4 extremities with purpose  
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

 
Pertinent Results:
ADMISSION LABS
=====================
___ 03:30AM BLOOD Triglyc-558* HDL-31* CHOL/HD-7.1 
LDLmeas-141*
___ 04:07AM   %HbA1c-7.1* eAG-157*
___ 09:00PM   cTropnT-0.10*
___ 03:30AM   GLUCOSE-166* UREA N-13 CREAT-0.9 SODIUM-137 
POTASSIUM-4.2 CHLORIDE-105 TOTAL CO2-22 ANION GAP-10
___ 03:30AM   CALCIUM-9.3 PHOSPHATE-3.7 MAGNESIUM-2.1 
CHOLEST-220*
___ 03:30AM   WBC-16.5* RBC-5.22 HGB-14.6 HCT-44.5 MCV-85 
MCH-28.0 MCHC-32.8 RDW-14.5 RDWSD-44.5

IMAGING
=====================
TTE ___ 

The left atrium is elongated. No atrial septal defect is seen by 
2D or color Doppler. Left ventricular wall thicknesses are 
normal. The left ventricular cavity size is normal. Due to 
suboptimal technical quality, a focal wall motion abnormality 
cannot be fully excluded. Overall left ventricular systolic 
function is normal (LVEF>55%). No masses or thrombi are seen in 
the left ventricle. There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
aortic root is mildly dilated at the sinus level. The ascending 
aorta is mildly dilated. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. The mitral valve appears 
structurally normal with trivial mitral regurgitation. The 
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion.  

DISCHARGE LABS
=====================
___ 07:15AM BLOOD WBC-16.6* RBC-5.07 Hgb-14.4 Hct-43.5 
MCV-86 MCH-28.4 MCHC-33.1 RDW-14.8 RDWSD-45.8 Plt ___
___ 07:15AM BLOOD Plt ___
___ 07:15AM BLOOD Glucose-128* UreaN-13 Creat-1.0 Na-138 
K-4.4 Cl-100 HCO3-23 AnGap-15
___ 11:40PM BLOOD CK(CPK)-108
___ 09:00PM BLOOD cTropnT-0.10*

 
Brief Hospital Course:
SUMMARY
=============
___ with hypertension, poorly compliant with meds, GERD, sinus 
tachycardia who presented to ___ ED for chest pain, 
found to have elevated troponins without evidence of ischemia on 
EKG, and was transferred to ___ on heparin drip for NSTEMI. He 
underwent cardiac catheterization with drug-eluting stent placed 
in the LAD and improvement of chest pain. He was started on 
medical therapy for CAD and will follow-up with cardiology and 
primary care.

ACTIVE ISSUES
=================
#NSTEMI: Presented with chest pain at rest, found to have 
elevated troponins, no EKG changes or evidence of ischemia. 
Treated with hep gtt, nitro gtt, ASA, clopidogrel, metoprolol, 
atorvastatin 80. TTE on ___ showed normal ejection fraction, 
no wall-motion abnormalities though suboptimal image quality. 
Cardiac catheterization on ___ showed LAD with 90% mid 
lesion, treated with drug-eluted stent with resolution of chest 
pain post-procedure. Patient to continue medications and 
follow-up with primary care and cardiology. Discussed smoking 
cessation.

#HTN: continue amlodipine-valsartan combo pill

CHRONIC ISSUES
==================
#GERD: continue omeprazole 
#Chronic Migraines: on tramadol PRN 

>30 minutes on discharge planning/coordination of care.

TRANSITIONAL ISSUES
=====================
- Med changes:
START: aspirin 81, clopidogrel 75, atorvastatin 80, metoprolol 
succinate 100, sublingual nitro as needed.
CONTINUE: amlodipine/valsartan combo pill

- Continue clopidogrel for at least ___ year after the cath with 
aspirin indefinitely.
- ___ a1c is 7.1, please consider starting metformin.
- Continue discussions re smoking cessation.

#CODE: Full (presumed) 
#CONTACT: ___ (wife) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. TraMADol 12.5 mg PO DAILY:PRN migraine headache 
3. Exforge (amlodipine-valsartan) ___ mg oral DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 (One) tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 (One) tablet(s) by mouth at bedtime 
Disp #*30 Tablet Refills:*0 
3.  Clopidogrel 75 mg PO DAILY to prevent stent thrombosis 
RX *clopidogrel 75 mg 1 (One) tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*0 
4.  Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg 1 (One) tablet(s) by mouth once 
a day Disp #*30 Tablet Refills:*0 
5.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
RX *nitroglycerin 0.3 mg 1 tablet(s) sublingually every ___ 
minutes as needed for chest pain Disp #*50 Tablet Refills:*0 
6.  Exforge (amlodipine-valsartan) ___ mg oral DAILY  
7.  Omeprazole 20 mg PO DAILY  
8.  TraMADol 12.5 mg PO DAILY:PRN migraine headache  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=====================
- Non ST elevation myocardial infarction

SECONDARY DIAGNOSES 
======================
Hypertension
Gastroesophageal Reflux Disease
Migraines

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized at ___ for chest pain.

What happened in the hospital?
- You were found to have a heart attack, and you underwent a 
cardiac catheterization which showed narrowing of your LAD, 
which is one of the arteries that supplies your heart. A stent 
was placed to open up the artery. You were started on 
medications to help prevent future heart attacks.

What you should do when you go home?
- Please continue to take the medications for your heart 
including: metoprolol, atorvastatin, aspirin, clopidogrel, 
exforge. We also recommend you quit smoking as we discussed in 
the hospital to prevent heart attacks. Please follow-up with 
your primary care and cardiologist as listed below.
- You were also found to have an elevated HbA1C which is a 
marker of diabetes. Please discuss this with your primary care 
physician.

It was a pleasure taking care of you. We wish you the best.
Your ___ care team

 
Followup Instructions:
___